* Disclaimer:
* No rights or licenses are granted by ams to Recipient, expressly or by implication, with respect to any proprietary information
* or patent, copyright mask, work, trademark, trade secret or other intellectual property right owned or controlled by ams, except
* as expressly provided by ams. Recipient may not remove any copyright notices from the Simulation File. ams may make changes to
* the Simulation Files or to items referenced therein at any time without notice and is not obligated to support or update these Files.
* This simulation File is provided by ams "AS IS" and any express or implied warranties, including, but not limited to the implied
* warranties of merchantability and fitness for a particular purpose are disclaimed. In no event shall ams or its suppliers be liable
* for any direct, indirect, incidental, special, exemplary or consequential damages (including, but not limited to procurement of
* substitute goods or services, loss of use, data or profits, or business interruption however caused and on any theory of liability,
* whether in contract, strict liability or tort (including negligence or otherwise) arising in any way out of the use of - or any
* inability to use - this Simulation File, even if advised of the possibility of such damage.
* © ams AG

* Diode, N+ to P substrate
.subckt primitive_nd a c area=1e-12 pj=4e-6
D1 A C DNINSUB AREA=AREA PJ=PJ
.ENDS

* Diode, N well to P substrate
.subckt primitive_nwd a c area=1e-12 pj=4e-6
D1 A C DNWINSUB AREA=AREA PJ=PJ
.ENDS

* Diode, P+ to N well
.subckt primitive_pd a c area=1e-12 pj=4e-6
D1 A C DPINSUB AREA=AREA PJ=PJ
.ENDS

* Resistor, P+ diffusion
.subckt primitive_rdiffp d b s w=1e-6 l=1e-6 dtemp=0
J1 D B S RDIFFP DTEMP=DTEMP
.MODEL RDIFFP PJF LEVEL=1
+ BETA='3.571e-06*(W-(-1.0e-07))/(L-(0.0))/(1+(1.5e-03)*(TEMPER+DTEMP-2.700e+01))'
+ BEX='-300.15*(1.5e-03)'
+ VTO='-1.0e+03+(0.000e+00/(W-(-1.0e-07)))'  LAMBDA=0.0
+ IS='1.4e-07*W*L+1.8e-13*(W+L)'    PB=1.0   XTI=1.9e+00
+ CGS='6.8e-04*W*L+3.2e-10*(W+L)'   RS=1.0
+ CGD='6.8e-04*W*L+3.2e-10*(W+L)'   RD=1.0   RG=1.0
.ENDS
